US05128230
Alpha,alpha'-bis-(2,4-dihydroxyphenyl)-1,4-diisopropylbenzene
110.0 g Resorcinol, 15.8 g p-diisopropenylbenzene and 200 ml glacial acetic acid were added to a flask and heated to about 70° C. to dissolve the reactants. Anhydrous hydrogen chloride was condensed into the reaction mixture until saturated. The reaction was allowed to cool and stand at ambient temperature for 17 hours. The product was precipitated in water, washed with water and vacuum dried at 60° C. About 29.1g of product with a melting point of about 110° to 115° C. was obtained.

reactant | Resorcinol | 110.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | p-diisopropenylbenzene | 15.8 g | C(=C)(C)C1=CC=C(C=C1)C(=C)C | C12H14
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | Alpha,alpha'-bis-(2,4-dihydroxyphenyl)-1,4-diisopropylbenzene | 29.1g | OC1=C(C=CC(=C1)O)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1=C(C=C(C=C1)O)O | C24H26O4
